US09428490B2
3-Fluoroazetidine-3-carboxylic acid hydrochloride (0.10 g, 8.4 mmol) was dissolved in methanol (2 mL) and cooled to 5° C. Thionyl chloride (0.05 g, 4.2 mmol) was added dropwise. The reaction mixture was heated at 65° C. overnight and concentrated under reduced pressure to afford methyl 3-fluoroazetidine-3-carboxylate hydrochloride. The product was used in the next step without further purification.

reactant | 3-Fluoroazetidine-3-carboxylic acid hydrochloride | 8.4 mmol, 0.10 g | Cl.FC1(CNC1)C(=O)O
reactant | Thionyl chloride | 4.2 mmol, 0.05 g | S(=O)(Cl)Cl | Cl2OS
reactant | methanol | 2 mL | CO | CH4O
product | methyl 3-fluoroazetidine-3-carboxylate hydrochloride | Cl.FC1(CNC1)C(=O)OC | InChI=1S/C5H8FNO2.ClH/c1-9-4(8)5(6)2-7-3-5;/h7H,2-3H2,1H3;1H
